US06414101B1
A 1-liter flask was charged with 500 ml of tetrahydrofuran as a solvent and 0.01 mol of sec-butyl lithium as an initiator. To the solution at −78° C. was added 30 g of p-tert-butoxystyrene. With stirring, polymerization reaction was effected for 30 minutes. The reaction solution turned red. For producing a branched polymer, 0.005 mol of p-methylcarbonylstyrene was added to the reaction solution whereupon reaction was effected for 5 minutes. Further 15 g of p-tert-butoxystyrene was added. With stirring, polymerization reaction was effected for 30 minutes. Polymerization was stopped by adding 0.1 mol of methanol to the reaction solution.

reactant | sec-butyl lithium | 0.01 mol | C(C)(CC)[Li]
reactant | p-tert-butoxystyrene | 30 g | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | p-methylcarbonylstyrene | 0.005 mol | CC(=O)C1=CC=C(C=C)C=C1 | C10H10O
